US06083943
(19) (2S*,3S*,5S*)-5-Methoxycarbonyl-3-[N-(2-methoxy-5-trifluoromethoxybenzyl)amino]-2-phenylpiperidine
A mixture of (2S*,3S*,5S*)-1-benzyloxycarbonyl-5-methoxycarbonyl-3-[N-(2-methoxy-5-trifluoromethoxybenzyl)amino]-2-phenylpiperidine (1.007 g, 1.758 mmol) and 20% Pd(OH)2 /C (0.258 g), THF (5.0 ml), and MeOH (30.0 ml) was stirred under an atmosphere of H2 (baloon) at room temperature for an hour. The catalyst was filtered off by the aid of Celite, and washed with THF. The combined filtrate and THF washings were concentrated in vacuo to give title compound (0.789 g, quantitatively) as a pale yellow oil. IRmax (film): 3340(s), 1735(s), 1718(s), 1608(m), 1250(br., s), 1150(br., s), 1033(s), 810(m), 750(m), 700(m) cm-1 ; 1H-NMR δ: 7.36-7.18(m, 5H), 7.00(dd, J=9.2, 2.2 Hz, 1H), 6.84(d, J=2.2 Hz, 1H), 6.62(d, J=9.2 Hz, 1H), 3.89(d, J=2.2 Hz, 1H), 3.71(s, 3H), 3.68(d, J=14.3 Hz, 1H), 3.51(ddd, J=11.9, 3.7, 1.8 Hz, 1H), 3.47(s, 3H), 3.40(d, J=14.3 Hz, 1H), 3.05(dddd, J=12.3, 11.9, 3.7, 3.7 Hz, 1H), 2.92-2.82(m, 1H), 2.88(dd, J=11.9, 11.9 Hz, 1H), 2.37(dm, J=13.6 Hz, 1H), 1.78(ddd, J=13.6, 12.3, 2.9 Hz, 1H), 1.68(br.s, 2H, NH×2) ppm.

reactant | (2S*,3S*,5S*)-1-benzyloxycarbonyl-5-methoxycarbonyl-3-[N-(2-methoxy-5-trifluoromethoxybenzyl)amino]-2-phenylpiperidine | 1.758 mmol, 1.007 g | C(C1=CC=CC=C1)OC(=O)N1[C@H]([C@H](C[C@@H](C1)C(=O)OC)NCC1=C(C=CC(=C1)OC(F)(F)F)OC)C1=CC=CC=C1 | C30H31F3N2O6
reactant | THF | 5.0 ml | C1CCOC1 | C4H8O
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
solvent | MeOH | 30.0 ml | CO | CH4O
product | (2S*,3S*,5S*)-5-Methoxycarbonyl-3-[N-(2-methoxy-5-trifluoromethoxybenzyl)amino]-2-phenylpiperidine | COC(=O)[C@H]1C[C@@H]([C@@H](NC1)C1=CC=CC=C1)NCC1=C(C=CC(=C1)OC(F)(F)F)OC | C22H25F3N2O4
